US05438140
Preparation of isopropyl 4 -pyridiniumacetoacetate chloride
The title compound was prepared as described in Example 1 from pyridine and isopropyl 4-chloroacetoacetate in a yield of 71%.

reactant | isopropyl 4-chloroacetoacetate | ClCC(CC(=O)OC(C)C)=O | C7H11ClO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | isopropyl 4 -pyridiniumacetoacetate chloride | yield of 71% | [Cl-].C(CC(=O)C)(=O)[O-].C(C)(C)C1=NC=C[CH2+]=C1.C(C)(C)C1=NC=C[CH2+]=C1 | InChI=1S/2C8H12N.C4H6O3.ClH/c2*1-7(2)8-5-3-4-6-9-8;1-3(5)2-4(6)7;/h2*4-7H,3H2,1-2H3;2H2,1H3,(H,6,7);1H/q2*+1;;/p-2
